US05471004
4-Bromo-1,1-dimethoxy-2-methyl-2-butene (2 g) was added to a solution of hexamine (1.7 g) and water (10 ml), and the mixture was stirred at room temperature for 14 hours. Dowex 50×8 (type H)(3 g) was previously treated with sodium chloride to convert it to type Na. Then isopropyl ether (20 ml) was added to the above reaction mixture, the type Na resin was added, and the mixture was stirred at 70° C. for 6 hours. The isopropyl ether layer was separated, concentrated and purified by column chromatography to give 4,4-dimethoxy-2-methyl-2-buten-1-al (0.92 g, 64%).

reactant | 4-Bromo-1,1-dimethoxy-2-methyl-2-butene | 2 g | BrCC=C(C(OC)OC)C | C7H13BrO2
reactant | hexamine | 1.7 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sodium chloride | [Cl-].[Na+]
reactant | isopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
solvent | water | 10 ml | O | H2O
product | 4,4-dimethoxy-2-methyl-2-buten-1-al | 0.92 g, 64% | COC(C=C(C=O)C)OC | C7H12O3
